US04772600
2-(4-Chlorophenyl)-N,N-diphenyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (1.73 g, 0.0137 mole) was added dropwise, slowly, to a stirred and chilled (10° C.) solution of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.7 g, 0.013 mole) in anhydrous dimethylformamide (50 ml). The reaction mixture was heated at 60° C. for 4 hr under nitrogen, cooled and added dropwise to a stirred and chilled (10° C.) solution of diphenylamine (2.37 g, 0.014 mole) and triethylamine (1.42 g, 0.014 mole) in anhydrous dimethylformamide (75 ml). The reaction mixture was stirred at room temperature overnight and then poured into water (400 ml). The mixture was extracted with ethyl acetate (2×75 ml). The aqueous layer was saturated with sodium chloride and extracted again with ethyl acetate (75 ml). The combined organic layers were washed with 5% potassium hydroxide solution (2×50 ml), water (50 ml) and saturated sodium chloride solution (50 ml). The combined layers were dried over sodium sulfate, filtered and concentrated under reduced pressure to give 4.0 g of an oil (70%). The oil was crystallized from isopropyl ether-isopropyl alcohol to give 2.2 g (39%) of a white solid, mp. 176°-178° C.

reactant | oxalyl chloride | 0.0137 mole, 1.73 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.013 mole, 3.7 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | diphenylamine | 0.014 mole, 2.37 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | triethylamine | 0.014 mole, 1.42 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 2-(4-Chlorophenyl)-N,N-diphenyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.0 g, 70% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C26H19ClN4O
